US07064215B2
Synthesis of 3-[6-((2S)-2,4-dimethylpiperazinyl)benzimidazol-2-yl]-6-chloro-1H-indazole
3-[6-((2S)-2-methylpiperazinyl)benzimidazol-2-yl]-6-chloro-1H-indazole (1 equivalent) is dissolved in a mixture of MeOH and acetic acid (10: 1), on molecular sieves. Paraformaldehyde (10 equivalents) is added in one portion. The reaction mixture is stirred at room temperature overnight then solid NaCNBH3 is added in small portions. The reaction mixture is refluxed for 5 hours, cooled to room temperature, filtered, and concentrated under reduced pressure. The residue is dissolved in dichloromethane and washed with saturated aqueous NaHCO3. The organic solution is dried over Na2SO4, and the solvent removed under reduced pressure to afford the desired product.

reactant | 3-[6-((2S)-2-methylpiperazinyl)benzimidazol-2-yl]-6-chloro-1H-indazole | 1 equivalent | C[C@@H]1N(CCNC1)C=1C=CC2=C(N=C(N2)C2=NNC3=CC(=CC=C23)Cl)C1 | C19H19ClN6
reactant | Paraformaldehyde | 10 equivalents | C=O | CH2O
reactant | NaCNBH3 | [BH3-]C#N.[Na+]
solvent | MeOH | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-[6-((2S)-2,4-dimethylpiperazinyl)benzimidazol-2-yl]-6-chloro-1H-indazole | C[C@@H]1N(CCN(C1)C)C=1C=CC2=C(N=C(N2)C2=NNC3=CC(=CC=C23)Cl)C1 | C20H21ClN6
